US06287829B1
(3R, 5S, 7R)-4-Benzoyl-7-benzyloxy-3-methyl-1-oxa-4-azaspiro[4.4]nonane (250 mg, 0.7 mmol) were dissolved in 5 ml of CH3CN. IR 120[H+] (washed 2× with ethanol and 1× with H2O) was added to a pH of 5-6, The mixture was stirred at room temperature until starting material was no longer detectable. The reaction mixture was filtered and the filtrate was concentrated on a rotary evaporator. After column chromatography, (R)-3-benzyloxycyclopentanone (81 mg, 0.4 mmol) was obtained.

reactant | (3R, 5S, 7R)-4-Benzoyl-7-benzyloxy-3-methyl-1-oxa-4-azaspiro[4.4]nonane | 0.7 mmol, 250 mg | C(C1=CC=CC=C1)(=O)N1[C@@H](CO[C@@]12C[C@@H](CC2)OCC2=CC=CC=C2)C | C22H25NO3
solvent | CH3CN | 5 ml | CC#N | C2H3N
product | (R)-3-benzyloxycyclopentanone | 0.4 mmol, 81 mg, Yield: 61% | C(C1=CC=CC=C1)O[C@H]1CC(CC1)=O | C12H14O2
